US07507726B2
(4S)-3-(7-Octenoyl)-4-benzyl-1,3-oxazolidin-2-one
To a solution of (S)-(-)-4-benzyl-2-oxazolidinone (12.4 g, 69.79 mmol) in THF (200 mL) at −78° C. was added dropwise n-BuLi (30.7 mL, 2.5M solution in hexane, 76.77 mmol). After stirring for 30 min at the same temperature, the reaction mixture was then treated with 7-octenoyl chloride (11.21 g, 69.79 mmol). The reaction mixture was stirred and allowed to warm to 10° C. over 5 h, and then quenched with saturated aqueous NH4Cl solution (200 mL). The aqueous layer was extracted with EtOAc (200 mL×2). The combined organic layers were washed with brine, and dried over MgSO4. Removal of the solvent under reduced pressure yielded the title compound. MH+302.

reactant | (S)-(-)-4-benzyl-2-oxazolidinone | 69.79 mmol, 12.4 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | n-BuLi | 76.77 mmol, 2.5M, 30.7 mL | [Li]CCCC
reactant | 7-octenoyl chloride | 69.79 mmol, 11.21 g | C(CCCCCC=C)(=O)Cl | C8H13ClO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (4S)-3-(7-Octenoyl)-4-benzyl-1,3-oxazolidin-2-one | C(CCCCCC=C)(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C18H23NO3
